### ISSUE TITLE
Tractatus: prove structural vs semantic equivalence diverge

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#10814]
## Problem

The current semantics is purely extensional — `p.eval w : Prop`. Structurally different propositions collapse if truth-equivalent. But Wittgenstein's notion of logical form is stronger than truth tables.

### 1. Define structural equivalence

```lean
def Proposition.structEq : Proposition S → Proposition S → Prop
  | .elementary s₁, .elementary s₂ => s₁ = s₂
  | .neg p₁, .neg p₂ => structEq p₁ p₂
  | .conj p₁ q₁, .conj p₂ q₂ => structEq p₁ p₂ ∧ structEq q₁ q₂
  | _, _ => False
```

### 2. Define semantic equivalence

```lean
def Proposition.semEq (p q : Proposition S) : Prop :=
  ∀ w : World S, p.eval w ↔ q.eval w
```

### 3. Prove they diverge

Show `neg (neg p)` is semantically equivalent to `p` but not structurally equivalent. This is a one-liner but philosophically important — it exposes the extensionality limitation.

### 4. Annotate with TLP connection

This relates to Wittgenstein's distinction between logical form and truth conditions. The formalization captures truth conditions but not logical form — and proving this explicitly is more honest than just asserting it in comments.

## Acceptance Criteria

- [ ] `structEq` and `semEq` defined
- [ ] Divergence theorem proved (e.g., `¬ structEq (neg (neg p)) p` but `semEq (neg (neg p)) p`)
- [ ] Annotation explaining philosophical significance
- [ ] meta.json updated

## References

- TLP 4.0141 (general rule of projection)
- Peer review section 2.2

**Comment by rjwalters** [comment]
## Implementation Guidance

Curating this issue per user request.

### Overview

The issue is well-specified. This enhancement adds a new Section 11 to `TractatusOntology.lean` immediately before the closing `end Tractatus` (line 529). The two definitions and divergence theorem are short, fully provable, and philosophically significant — making this a clean, self-contained addition.

---

### Exact Definitions

Place these inside `namespace Tractatus` after Section 10 (after line 527, before `end Tractatus`):

```lean
-- ═══════════════════════════════════════════════════════════════
-- SECTION 11: Structural vs Semantic Equivalence (TLP 4.0141)
-- ═══════════════════════════════════════════════════════════════

/-
TLP 4.0141: "There is a general rule by means of which the musician
can obtain the symphony from the score, and which makes it possible
to derive the symphony from the groove on the gramophone disc..."

Wittgenstein's notion of logical form is NOT truth-functional.
Two propositions can share their truth conditions in every possible
world while differing in their logical form.  The formalization
necessarily captures only truth conditions — semantic equivalence.
Proving the divergence makes this limitation explicit rather than
merely asserting it in comments.
-/

namespace Proposition

/-- Structural (syntactic) equality of propositions. Two propositions
    are structurally equal iff they are built from identical constructors
    in the same tree shape. This is strictly stronger than semantic
    equivalence. -/
def structEq : Proposition S → Proposition S → Prop
  | .elementary s₁, .elementary s₂ => s₁ = s₂
  | .neg p₁,        .neg p₂        => structEq p₁ p₂
  | .conj p₁ q₁,   .conj p₂ q₂   => structEq p₁ p₂ ∧ structEq q₁ q₂
  | _,              _               => False

/-- Semantic (truth-conditional) equivalence of propositions. Two
    propositions are semantically equivalent iff they have the same
    truth value in every possible world. This is the relation the
    formalization can fully characterize. -/
def semEq (p q : Proposition S) : Prop :=
  ∀ w : World S, p.eval w ↔ q.eval w

end Proposition
```

---

### Divergence Theorem: Proof Sketch and Full Text

The witness is `neg (neg p)` vs `p`. Semantic equivalence follows from `double_negation` (Theorem 6, already proved at line 273). Structural non-equivalence follows because `structEq (neg (neg p)) p` reduces by the first case of `structEq` to `structEq (neg p) p` via the `neg/neg` branch, which then hits the wildcard `| _, _ => False` branch since `neg p` is a `.neg` constructor and `p` is not necessarily `.neg`.

The key insight for the Lean proof: `Proposition.structEq (.neg (.neg p)) p` unfolds to `Proposition.structEq (.neg p) p`. The `.neg`/`.neg` branch requires both sides to be `.neg`, but the right-hand side is `p` — an arbitrary proposition not necessarily of `.neg` shape. We witness the contradiction by letting `p = .elementary s` for any `s : S`, which makes the right side `.elementary s`, hitting the `| _, _ => False` case.

```lean
-- ---------------------------------------------------------------
-- Theorem 14: Structural and semantic equivalence diverge (TLP 4.0141)
-- ---------------------------------------------------------------

/-
`neg (neg p)` is semantically equivalent to `p` by double negation
(Theorem 6 above), but is NOT structurally equivalent to `p` — it
has an extra layer of negation in its syntactic tree.

This theorem makes explicit what the formalization captures and what
it cannot: truth conditions, but not logical form.
-/

theorem structEq_ne_semEq [Nonempty S] :
    ∃ (p q : Proposition S),
      Proposition.semEq p q ∧ ¬ Proposition.structEq p q := by
  obtain ⟨s⟩ : Nonempty S := inferInstance
  refine ⟨.neg (.neg (.elementary s)), .elementary s, ?_, ?_⟩
  · -- semantic equivalence: double negation elimination
    intro w
    simp [Proposition.semEq, Proposition.eval, not_not]
  · -- structural non-equivalence: syntactic trees differ
    simp [Proposition.structEq]
```

The `simp [Proposition.structEq]` call in the structural part reduces
`structEq (.neg (.neg (.elementary s))) (.elementary s)` through the
`.neg`/`.neg` match to `structEq (.neg (.elementary s)) (.elementary s)`,
then hits `| _, _ => False` (since `.neg _` ≠ `.elementary _`), closing
with `False.elim`.

If `simp` does not close it automatically, the manual fallback is:

```lean
  · -- structural non-equivalence (manual)
    intro h
    -- h : structEq (.neg (.neg (.elementary s))) (.elementary s)
    -- unfolds to: structEq (.neg (.elementary s)) (.elementary s)
    -- which unfolds to: False
    exact h
```

Since `structEq` reduces definitionally to `False` for mismatched constructors, `exact h` or `exact absurd h id` will work.

---

### Insertion Point

Insert the new section at line 528 of `/Users/rwalters/GitHub/lean-genius/proofs/Proofs/TractatusOntology.lean`, immediately before the final `end Tractatus` line. The file currently ends:

```
527  axiom silence : True
528
529  end Tractatus
```

Add the new section between line 527 and the `end Tractatus`. The new theorem should be numbered Theorem 14 (there are currently 13 numbered theorems plus lemmas).

---

### meta.json Updates Required

In `/Users/rwalters/GitHub/lean-genius/src/data/proofs/tractatus-ontology/meta.json`:

1. `leanFile.theoremCount`: increment from `21` to `22` (one new theorem + the `structEq_ne_semEq` theorem)
2. `leanFile.definitionCount`: increment from `8` to `10` (adding `structEq` and `semEq`)
3. `leanFile.lineCount`: update after insertion (currently `528`; new section adds ~50 lines → ~578)
4. `meta.lineCount`: same as above
5. Add to `mainTheorems` array:

```json
{
  "name": "structEq_ne_semEq",
  "type": "core",
  "description": "Structural and semantic equivalence diverge: neg (neg p) and p are semantically equivalent but structurally distinct (TLP 4.0141)",
  "leanType": "∃ (p q : Proposition S), Proposition.semEq p q ∧ ¬ Proposition.structEq p q"
}
```

6. Add to `meta.originalContributions`:
   - `"Divergence theorem proving structural and semantic equivalence are strictly distinct notions, formalizing TLP 4.0141"`

7. Add to `sections` array:

```json
{
  "id": "structural-semantic-divergence",
  "title": "Structural vs Semantic Equivalence (TLP 4.0141)",
  "startLine": 529,
  "endLine": 580,
  "summary": "Definitions of structEq and semEq with a divergence theorem: neg (neg p) is semantically but not structurally equivalent to p."
}
```

---

### Philosophical Annotation

The docstring should cite TLP 4.0141 (the gramophone groove / projection rule) and note:

> This theorem is not merely a technical curiosity. It precisely locates what the formalization *cannot* do: the truth-conditional semantics (`semEq`) equates `¬¬p` with `p`, as every truth table confirms. But Wittgenstein's notion of logical form (shared between proposition and world) is captured by `structEq` — the syntactic shape matters. The proof that these relations diverge is the formal statement that Lean's `Proposition.eval` is extensional by design and cannot serve as a model of logical form in the Tractarian sense.

---

### Build Verification

After implementing:

```bash
./proofs/scripts/docker-build.sh Proofs.TractatusOntology
```

Expected: 0 errors, 0 warnings, 0 sorries.

## Affected Files

- `/Users/rwalters/GitHub/lean-genius/proofs/Proofs/TractatusOntology.lean` — Add Section 11 with `structEq`, `semEq`, and `structEq_ne_semEq` theorem before `end Tractatus`
- `/Users/rwalters/GitHub/lean-genius/src/data/proofs/tractatus-ontology/meta.json` — Update `theoremCount`, `definitionCount`, `lineCount`, add to `mainTheorems`, `originalContributions`, and `sections`

## Test Plan

- [ ] Manual verification: `./proofs/scripts/docker-build.sh Proofs.TractatusOntology` completes with 0 errors and 0 sorries
- [ ] Automated tests: `pnpm build` succeeds with updated meta.json
- [ ] Edge cases: verify `structEq` is definitionally `False` for all mismatched constructor pairs (the wildcard branch covers `.elementary`/`.neg`, `.elementary`/`.conj`, `.neg`/`.conj`, etc.)
- [ ] Annotation quality: philosophical docstring cites TLP 4.0141 and explains the saying/showing connection
